US05112922
5-Bromo-N-octylpentanamide (17.25 g) was dissolved in ethanol (50 ml) and a 33% solution of dimethylamine in ethanol (20 ml) was added. The solution was allowed to stand at room temperature for 3 hours, more dimethylamine (10 ml) added and the solution allowed to stand at room temperature for 18 hours. The solution was evaporated to give an oil, which was dissolved in dilute HCl and the solution at pH 5.5 was washed with dichloromethane. The pH was then raised to 7.5 and extracted twice with dichloromethane at this pH. The combined latter organic extracts were dried over MgSO4 and evaporated to give 5-dimethylamino-N-octylpentanamide as an oil (10.6 g, 70%).

reactant | 5-Bromo-N-octylpentanamide | 17.25 g | BrCCCCC(=O)NCCCCCCCC | C13H26BrNO
reactant | dimethylamine | CNC | C2H7N
reactant | dimethylamine | 10 ml | CNC | C2H7N
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | HCl | Cl | ClH
product | 5-dimethylamino-N-octylpentanamide | 10.6 g, 70% | CN(CCCCC(=O)NCCCCCCCC)C | C15H32N2O
